US08304419B2
Step C: methyl 5-{[(2,2-dimethyl-1,3-dioxan-5-yl)methyl]oxy}-1H-indole-2-carboxylate
Methyl 5-Hydroxy-1H-indole-2-carboxylate (0.10 g, 0.5 mmol), triphenylphosphine (0.28 g, 1.0 mmol), diethyl azodicarboxylate (0.18 g, 1.0 mmol) and (2,2-dimethyl-1,3-dioxan-5-yl)methanol (0.15 g, 1.0 mmol) were dissolved in CH2Cl2 (5 mL) and the mixture was stirred overnight. The solvent was evaporated. Purification was accomplished by Reverse-Phase HPLC (water/acetonitrile with 0.1% TFA). The desired fractions were neutralized with saturated NaHCO3 and extracted with EtOAc. The organic extracts were combined dried over Na2SO4, filtered and evaporated to afford the title compound (0.15 g, 90%) as a tan solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 11.74 (br. s., 1H), 7.29 (d, 1H), 7.09 (d, 1H), 7.01 (d, 1H), 6.88 (dd, 1H), 3.92-4.01 (m, 4H), 3.81 (s, 3H), 3.72 (dd, 2H), 1.97-2.08 (m, 1H), 1.31 (s, 3H), 1.28 (s, 3H). MS: m/z 342.2 (M+23).

reactant | Methyl 5-Hydroxy-1H-indole-2-carboxylate | 0.5 mmol, 0.10 g | OC=1C=C2C=C(NC2=CC1)C(=O)OC | C10H9NO3
reactant | triphenylphosphine | 1.0 mmol, 0.28 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.0 mmol, 0.18 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (2,2-dimethyl-1,3-dioxan-5-yl)methanol | 1.0 mmol, 0.15 g | CC1(OCC(CO1)CO)C | C7H14O3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | methyl 5-{[(2,2-dimethyl-1,3-dioxan-5-yl)methyl]oxy}-1H-indole-2-carboxylate | 0.15 g, 90% | CC1(OCC(CO1)COC=1C=C2C=C(NC2=CC1)C(=O)OC)C | C17H21NO5
